US08133882B2
To a 15 ml THF solution of 762 mg of 3-(3-{[tert-butyl(dimethyl)silyl]oxy}propoxy)-7-(cyclohexylamino)-1-cyclopentyl-6-fluoroquinoline-4(1H)-one was added 1.5 ml of a 1 M tetrabutylammonium fluoride THF solution at room temperature, followed by stirring for 2 hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate and washing with aqueous saturated sodium chloride. After drying over anhydrous sodium sulfate, evaporation was carried out under a reduced pressure. By purifying the residue by silica gel column chromatography, 273 mg of 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-3-(3-hydroxypropoxy)quinolin-4(1H)-one was obtained.

reactant | THF | 15 ml | C1CCOC1 | C4H8O
reactant | 3-(3-{[tert-butyl(dimethyl)silyl]oxy}propoxy)-7-(cyclohexylamino)-1-cyclopentyl-6-fluoroquinoline-4(1H)-one | 762 mg | [Si](C)(C)(C(C)(C)C)OCCCOC1=CN(C2=CC(=C(C=C2C1=O)F)NC1CCCCC1)C1CCCC1 | C29H45FN2O3Si
solvent | Water | O | H2O
product | 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-3-(3-hydroxypropoxy)quinolin-4(1H)-one | 273 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)OCCCO)=O)F | C23H31FN2O3
